US07091220B2
{[2-(3-Chloro-4-fluorophenyl)-1H-indol-3-yl]-phenylmethyl}-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-(3-chloro-4-fluorophenyl)-1H-indole and benzylidene-dimethyl-ammonium chloride, which had been prepared in accordance with example 1.

reactant | 2-(3-chloro-4-fluorophenyl)-1H-indole | ClC=1C=C(C=CC1F)C=1NC2=CC=CC=C2C1 | C14H9ClFN
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
product | {[2-(3-Chloro-4-fluorophenyl)-1H-indol-3-yl]-phenylmethyl}-dimethylamine | ClC=1C=C(C=CC1F)C=1NC2=CC=CC=C2C1C(C1=CC=CC=C1)N(C)C | C23H20ClFN2
